US08304446B2
4-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}-N,N-diethylbenzamide
To a solution of 4-{[3-[[(5-chloro-2-thienyl)sulfonyl]({[2-(trimethylsilyl)ethyl]oxy}methyl)amino]-4-(methyloxy)-1H-indazol-1-yl]methyl}-N,N-diethylbenzamide (for a preparation see Intermediate 79) (125.5 mg, 0.189 mmol) in dichloromethane (DCM) (1 ml) was added dropwise TFA (0.292 ml, 3.78 mmol) at ambient temperature. The resulting mixture was stirred at ambient temperature for 30 h. Reaction mixture was concentrated under a stream of nitrogen in a blowdown unit. The residue was purified using the high pH-MDAP and further purified by MDAP to give the title compound (3 mg, 3%) LCMS (System A) RT=1.19 min, ES+ve m/z 533/535 (M+H)+.

reactant | 4-{[3-[[(5-chloro-2-thienyl)sulfonyl]({[2-(trimethylsilyl)ethyl]oxy}methyl)amino]-4-(methyloxy)-1H-indazol-1-yl]methyl}-N,N-diethylbenzamide | ClC1=CC=C(S1)S(=O)(=O)N(C1=NN(C2=CC=CC(=C12)OC)CC1=CC=C(C(=O)N(CC)CC)C=C1)COCC[Si](C)(C)C | C30H39ClN4O5S2Si
reactant | TFA | 3.78 mmol, 0.292 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | ClCCl | CH2Cl2
product | 4-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}-N,N-diethylbenzamide | 3 mg, 3% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC1=CC=C(C(=O)N(CC)CC)C=C1 | C24H25ClN4O4S2
